US08193228B2
n-Butyllithium (2.5 M in hexanes) (0.53 mL, 1.32 mmol) was added to a solution of 4-(2,2-dimethylbutyl)-2-methyl-1-trityl-1H-imidazole (360 mg, 0.88 mmol) in tetrahydrofuran (15 mL) at −78° C. dropwise. After stirring at −78° C. for 40 min, 4-(5-fluoropyridin-2-yl)-N-methoxy-N-methylbenzamide (340 mg, 1.32 mmol) in tetrahydrofuran (5 mL) was added dropwise. After warming slowly to ambient temperature, the reaction mixture was quenched with saturated aqueous ammonium chloride. The reaction mixture was partitioned between water and ethyl acetate. The organic phase was dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-20% ethyl acetate/hexane afforded 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanone contaminated with an unidentified byproduct. This material was used in the next step without further purification.

reactant | n-Butyllithium | 1.32 mmol, 2.5 M, 0.53 mL | C(CCC)[Li]
reactant | 4-(2,2-dimethylbutyl)-2-methyl-1-trityl-1H-imidazole | 0.88 mmol, 360 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(CC)C | C29H32N2
reactant | 4-(5-fluoropyridin-2-yl)-N-methoxy-N-methylbenzamide | 1.32 mmol, 340 mg | FC=1C=CC(=NC1)C1=CC=C(C(=O)N(C)OC)C=C1 | C14H13FN2O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanone | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H38FN3O
